2165-04-16 07:19:00 Physician Resident Progress Note
Chief Complaint: 54 year-old female with history of alcohol abuse,
   status post splenectomy, status post multiple abdominal surgeries
   initially presenting with altered mental status and dyspnea, with
   subsequent asystolic arrest for 26 minutes and multiple laboratory
   abnormalities, including significant bandemia, metabolic acidosis, and
   elevated lactate.
   24 Hour Events:
 PAN CULTURE - At [**2165-4-15**] 08:00 AM
 INVASIVE VENTILATION - START [**2165-4-15**] 08:30 AM
 MULTI LUMEN - START [**2165-4-15**] 08:45 AM
 ARTERIAL LINE - START [**2165-4-15**] 10:48 AM
 EEG - At [**2165-4-15**] 05:00 PM
   CONTINUOUS
 FEVER - 102.2
C - [**2165-4-15**] 03:04 PM
   - CT head showed effacement of sulci, loss of [**Doctor Last Name 734**]-white matter
   differentiation
   - CT torso showed small bilateral effusions, septal thickening, trace
   ascites, cecal wall thickening, and pericholecystic fluid. Couldn't
   definitively rule out pneumatosis coli without contrast - results
   discussed with radiology and with surgery
   - transfused 1 unit PRBC
   - started high-dose thiamine per tox recs
   - started on Arctic sun protocol
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-15**] 08:51 AM
   Vancomycin - [**2165-4-15**] 08:00 PM
   Metronidazole - [**2165-4-16**] 01:46 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-15**] 10:04 AM
   Fentanyl - [**2165-4-15**] 02:00 PM
   Midazolam (Versed) - [**2165-4-16**] 01:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 34.4
C (93.9
   HR: 103 (101 - 140) bpm
   BP: 113/69(85) {77/38(2) - 116/71(87)} mmHg
   RR: 20 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,056 mL
                                                                    705 mL
   PO:
             TF:
   IVF:
                                                                  4,681 mL
                                                                    705 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    825 mL
                                                                    450 mL
   Urine:
                                                                    825 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,231 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 14 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: 7.37/38/155/20/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 310
   Physical Examination
   GEN: not responding to voice or painful stimuli
   HEENT:  bilateral pupillary and corneal reflexes
   CHEST: CTAB anteriorly
   CV: RRR, nl S1, S2, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: sedated and intubated
   Labs / Radiology
   357 K/uL
   8.8 g/dL
   69 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   31 mg/dL
   97 mEq/L
   132 mEq/L
   27.8 %
   25.7 K/uL
        [image002.jpg]
                             [**2165-4-15**]  12:35 PM
                             [**2165-4-15**]  05:00 PM
                             [**2165-4-15**]  05:13 PM
                             [**2165-4-15**]  08:15 PM
                             [**2165-4-15**]  08:29 PM
                             [**2165-4-15**]  09:40 PM
                             [**2165-4-16**]  01:28 AM
                             [**2165-4-16**]  01:42 AM
                             [**2165-4-16**]  05:06 AM
                             [**2165-4-16**]  05:17 AM
   WBC
   25.7
   Hct
   25.3
   27.8
   Plt
   357
   Cr
   1.4
   1.3
   1.2
   1.2
   TCO2
   15
   21
   22
   21
   23
   Glucose
   393
   257
   114
   69
   Other labs: PT / PTT / INR:13.7/31.2/1.2, ALT / AST:45/151, Alk Phos /
   T Bili:182/0.4, Amylase / Lipase:/19, Differential-Neuts:82.8 %,
   Lymph:13.7 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:246 mg/dL, Lactic
   Acid:4.9 mmol/L, LDH:318 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6
   mg/dL
   BCx [**4-15**] NGTD x 2
   Sputum Cx pending
   Urine Cx pending
   UA negative 0-2 WBCs
   portable CXR pending
   Assessment and Plan
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate.
   * Sepsis: Unclear etiology - patient is status post splenectomy and
   therefore immunocompromised. Initial laboratories significant for WBC
   12.9 with 32% bandemia with increasing WBC. Concern for catastrophic
   abdominal event given gas distended bowel loops and recent complaints
   of abdominal pain. Initial chest x-ray and urinalysis without
   infection.
   - add on diff
   - Antibiotics with vancomycin, ciprofloxacin, and metronidazole to
   treat likely abdominal process; vanc level tonight
   - f/u blood, sputum, urine, stool cultures pending
   - Surgery following; appreciate
   - check CXR after advancing OG tube
   - KUB stat to loook for free air
   - consider CT torso
   - check c. difficile if pt stools
   * Status post arrest: The patient had a 26 minute asystolic arrest in
   the ED. The most likely etiologies are acidosis versus potential toxin
   ingestion. The patient was no longer hypoglycemic at the time of
   arrest. Improved neurological exam. The length of the code suggests a
   poor prognosis.
   - Initiate cooling protocol
 once complete, start weaning sedatives
   - continuous EEG
   - Stat CT head when feasible
   - Neurology consult; appreciate
   - Treatment for potential underlying etiologies as below
   * Anion gap metabolic acidosis: The patient has renal failure, a
   significant lactic acidosis, as well as ketones likely due to
   dehydration. Her osmolar gap initially was only 11, however increased
   to 17 on repeat testing, of unclear etiology, now improved
 may have
   been due to ketosis and lactic acidosis.  Also consider profound
   thiamine deficiency.
   - appreciate tox recs
   - f/u polyethlyene glycol level and thiamine level
   - IVF hydration
   - Continue to monitor lactate
   - Evaluation for sepsis as below
   * Tachycardia: Sinus tachycardia to the 140s but now improved in 100s.
   Unclear etiology
 patient now febrile; also concerning for sepsis,
   hypovolemia, and alcohol withdrawal.
   - Tylenol
   - IVF hydration
   - Antibiotics as above
   - Consider benzodiazepine for alcohol withdrawal
   - monitor HR
   * Hypoxemic respiratory failure: Intubated initially in the setting of
   a code.
   - Continue supportive ventilation with goal to compensate for her
   profound metabolic acidosis from a ventilatory standpoint
   - drop FiO2 to 40% today
   - check ABG
   * Acute renal failure: Initially appears pre-renal in the setting of
   poor PO and FeNa 0.4. The patient may progress to ATN in the setting of
   hypotension.
   - IVF hydration with D5LR x 1 L today
   - Continue to monitor
   * Anemia: The patient
s baseline hematocrit is 32 and was 25 on
   admission. Hematocrit has now dropped to 21, likely in the setting of
   dilution.  Hemolysis labs negative. Guaiac negative on admission. s/p 1
   pRBC yesterday
   - Guaiac all stools
   - Active type and cross
   - Continue to monitor
   * EtoH abuse: Concern for alcohol withdrawal as above.
   - Thiamine 100 mg IV x 3 days, folate, MVI
   - f/u thiamine level
   - Consider benzodiazepine for alcohol withdrawal
   * Hyponatremia: Hypovolemic hyponatremia. Improved with fluids.
   - monitor Na
   * Hypoglycemia: Unclear etiology, resolved. The patient had recently
   been drinking significant amounts of alcohol, which was likely
   responsible.
   - d/c insulin gtt
   - Q6 hour FS
   - HISS
   * Polysubstance abuse: History ofalcohol abuse as above. Urine positive
   for cocaine.
   - Monitor
 ANEMIA, OTHER
 HYPOXEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CARDIAC ARREST
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: NPO, D5LR at 100 cc/hour x 1 L
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-15**] 08:45 AM
 will need to d/c CVL from code;
   plan to do IJ today
   Arterial Line - [**2165-4-15**] 10:48 AM
   18 Gauge - [**2165-4-15**] 02:50 PM
   Prophylaxis:
   DVT: Boots, start Heparin SQ today
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU care

2165-04-16 07:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2165-4-15**] 08:00 AM
 INVASIVE VENTILATION - START [**2165-4-15**] 08:30 AM
 MULTI LUMEN - START [**2165-4-15**] 08:45 AM
 ARTERIAL LINE - START [**2165-4-15**] 10:48 AM
 EEG - At [**2165-4-15**] 05:00 PM
   CONTINUOUS
 FEVER - 102.2
C - [**2165-4-15**] 03:04 PM
   > Decerebrating posture with cold calorics
   > Cooling protocol initiated yesterday
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-15**] 08:51 AM
   Metronidazole - [**2165-4-16**] 01:46 AM
   Vancomycin - [**2165-4-16**] 07:42 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-15**] 10:04 AM
   Fentanyl - [**2165-4-15**] 02:00 PM
   Midazolam (Versed) - [**2165-4-16**] 01:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-16**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 34.4
C (93.9
   HR: 103 (101 - 140) bpm
   BP: 113/69(85) {77/38(2) - 116/71(87)} mmHg
   RR: 20 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,016 mL
                                                                    891 mL
   PO:
             TF:
   IVF:
                                                                  4,641 mL
                                                                    891 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    825 mL
                                                                    450 mL
   Urine:
                                                                    825 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,191 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 14 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: 7.37/38/155/20/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilateral)
   Abdominal: Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Tone: Not assessed, decerebrate posturing
   Labs / Radiology
   8.8 g/dL
   357 K/uL
   69 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   31 mg/dL
   97 mEq/L
   132 mEq/L
   27.8 %
   25.7 K/uL
        [image002.jpg]
                             [**2165-4-15**]  12:35 PM
                             [**2165-4-15**]  05:00 PM
                             [**2165-4-15**]  05:13 PM
                             [**2165-4-15**]  08:15 PM
                             [**2165-4-15**]  08:29 PM
                             [**2165-4-15**]  09:40 PM
                             [**2165-4-16**]  01:28 AM
                             [**2165-4-16**]  01:42 AM
                             [**2165-4-16**]  05:06 AM
                             [**2165-4-16**]  05:17 AM
   WBC
   25.7
   Hct
   25.3
   27.8
   Plt
   357
   Cr
   1.4
   1.3
   1.2
   1.2
   TCO2
   15
   21
   22
   21
   23
   Glucose
   393
   257
   114
   69
   Other labs: PT / PTT / INR:13.7/31.2/1.2, ALT / AST:45/151, Alk Phos /
   T Bili:182/0.4, Amylase / Lipase:/19, Differential-Neuts:82.8 %,
   Lymph:13.7 %, Mono:3.0 %, Eos:0.1 %, Fibrinogen:246 mg/dL, Lactic
   Acid:4.9 mmol/L, LDH:318 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6
   mg/dL
   IMPRESSION:
   1. Small bilateral pleural effusions with septal thickening compatible
   with
   volume overload. There is no consolidation or lung mass.
   2. Endotracheal tube is in adequate position. NG tube terminates in the
   mid
   thoracic portion of the dilated esophagus, and should be substantially
   advanced for optimal positioning.
   3. Limited evaluation of the abdominal organs in the lack of
   intravenous or
   oral contrast. There are extensive post-surgical changes, no evidence
   for
   acute intra-abdominal process, including no free air or abscess
   formation.
   4. Trace free fluid, cecal and ascending colonic wall thickening, and
   pericholecystic fluid most likely secondary to fluid resuscitation and
   third
   spacing. Additionally, the wall thickening in the ascending colon may
   reflect
   an element of portal hypertension.
   5. Right adrenal adenoma.
   6. Venous and arterial right femoral lines in adequate position.
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source .
    >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions.  She seems
   to be slightly improved from yesterday. Will cont cooling and follow
   serial exams and remove sedation post cooling protocol.
    - serial exams
   - Appreciate Neuro consult, consider EEG
   - Cooling protocol.
   > Hypox resp failure: intubated intially in the setting of a code. She
    conts to improve (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis, now appears
   as if she is doing better, will try to switch to PS today.
   > Anemia: likely dilutional in nature and acute on chronic. Will
   transfuse to keep Hct > 21 received 1 U 6/1with appropriate.
   >Hypotension/Tachycardia: no obvious source at first glance although
   concerns include: abdominal souce (normal LFT, panreatic zymes but
   elevated lactate and distended colon air gas pattern with no obvious
   transition site ) in the setting of her hx of abdominal sources (hx of
   abdominal surgery). This AM appears under better control
   - Cont to support with IVF
   - Check KUB today
   - cont Abx (Vanco, Cirpo, flagyl)
   - cont to trend the lactate
   - f/u with surgery
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. She also appears
   to have a mildly elevated osmolar gap. There is no hx of  unusual
   ingestion, but we do not have a very good history in general for this
   patient so it seems prudent to keep a broad differential(her methanol
   was negative and ethylene glycol is pending). It is also possible she
   had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. Today, her AG has largely resolved.
   -   Cont to gently hydrate
   - Follow lactate
   - Appreciate toxicology input
   - Thiamine repletion
   - Change fluid resus to LR (the HCO3 is a titrateable acid load)
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above. If
   she progresses into ATN may need dialysis support.   Her Cr seems to
   have stabilized.
   > Access: will need to change femoral CVC to PICC or triple lumen IJ
    Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-15**] 08:45 AM
   Arterial Line - [**2165-4-15**] 10:48 AM
   18 Gauge - [**2165-4-15**] 02:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-04-17 06:33:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   -OG tube advanced, in good position in stomach
   -surgery reconsulted regarding abdomen as a possible source for sepsis,
   also to help r/o mesenteric ischemia- ordered CTA abd/pelvis,
   pretreated for possible iodine / shellfish allergy w/ no known contrast
   allergy.
   -Cooling protocol ended, patient warm
   -Tolerating ventilator at PSV 5/5, ABG on this 7.30/33/101
   -R IJ central line placed
   -sc heparin started
   -R femoral line removed
   -vanc level 28, vanc dose held and reordered for q24hrs, ordered vanc
   level for the a.m.
   -CTA abd / pelvis prelim read: large arteries patent, ascending colon
   and cecal wall thickness without pericolonic inflammatory changes
   (possibly due to fluid overload), no abscess, perforation, no
   pneumatosis or evidence for mesenteric ischemia.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsIodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-15**] 08:51 AM
   Vancomycin - [**2165-4-16**] 07:42 AM
   Ciprofloxacin - [**2165-4-16**] 08:13 PM
   Metronidazole - [**2165-4-17**] 03:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-17**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 112 (95 - 115) bpm
   BP: 101/59(75) {97/52(70) - 142/79(103)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,300 mL
                                                                    817 mL
   PO:
             TF:
   IVF:
                                                                  3,300 mL
                                                                    817 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    100 mL
   Urine:
                                                                  1,105 mL
                                                                    100 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                    717 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 352 (352 - 852) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.43/29/94.[**Numeric Identifier 128**]/16/-3
   Ve: 19.4 L/min
   PaO2 / FiO2: 235
   Physical Examination
   GEN: not responding to voice or painful stimuli
   HEENT:  bilateral pupillary and corneal reflexes
   CHEST: CTAB anteriorly
   CV: RRR, nl S1, S2, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: sedated and intubated
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   8.8 g/dL
   226 mg/dL
   1.3 mg/dL
   16 mEq/L
   3.0 mEq/L
   31 mg/dL
   94 mEq/L
   132 mEq/L
   25.5 %
   25.7 K/uL
        [image002.jpg]
                             [**2165-4-16**]  10:35 AM
                             [**2165-4-16**]  01:12 PM
                             [**2165-4-16**]  01:33 PM
                             [**2165-4-16**]  04:44 PM
                             [**2165-4-16**]  04:57 PM
                             [**2165-4-16**]  08:55 PM
                             [**2165-4-16**]  08:57 PM
                             [**2165-4-17**]  01:37 AM
                             [**2165-4-17**]  01:47 AM
                             [**2165-4-17**]  06:10 AM
   Hct
   25.5
   Cr
   1.2
   1.2
   1.2
   1.3
   TCO2
   18
   19
   17
   15
   19
   20
   Glucose
   106
   118
   231
   226
   Other labs: PT / PTT / INR:13.7/31.2/1.2, ALT / AST:45/151, Alk Phos /
   T Bili:182/0.4, Amylase / Lipase:/19, Differential-Neuts:92.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:246 mg/dL,
   Lactic Acid:2.6 mmol/L, LDH:318 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate.
   * Sepsis: Unclear etiology - patient is status post splenectomy and
   therefore immunocompromised. Initial laboratories significant for WBC
   12.9 with 32% bandemia with increasing WBC. Concern for catastrophic
   abdominal event given gas distended bowel loops and recent complaints
   of abdominal pain. Initial chest x-ray and urinalysis without
   infection.
   - add on diff
   - Antibiotics with vancomycin, ciprofloxacin, and metronidazole to
   treat likely abdominal process; vanc level tonight
   - f/u blood, sputum, urine, stool cultures pending
   - Surgery following; appreciate
   - check CXR after advancing OG tube
   - KUB stat to loook for free air
   - consider CT torso
   - check c. difficile if pt stools
   * Status post arrest: The patient had a 26 minute asystolic arrest in
   the ED. The most likely etiologies are acidosis versus potential toxin
   ingestion. The patient was no longer hypoglycemic at the time of
   arrest. Improved neurological exam. The length of the code suggests a
   poor prognosis.
   - Initiate cooling protocol
 once complete, start weaning sedatives
   - continuous EEG
   - Stat CT head when feasible
   - Neurology consult; appreciate
   - Treatment for potential underlying etiologies as below
   * Anion gap metabolic acidosis: The patient has renal failure, a
   significant lactic acidosis, as well as ketones likely due to
   dehydration. Her osmolar gap initially was only 11, however increased
   to 17 on repeat testing, of unclear etiology, now improved
 may have
   been due to ketosis and lactic acidosis.  Also consider profound
   thiamine deficiency.
   - appreciate tox recs
   - f/u polyethlyene glycol level and thiamine level
   - IVF hydration
   - Continue to monitor lactate
   - Evaluation for sepsis as below
   * Tachycardia: Sinus tachycardia to the 140s but now improved in 100s.
   Unclear etiology
 patient now febrile; also concerning for sepsis,
   hypovolemia, and alcohol withdrawal.
   - Tylenol
   - IVF hydration
   - Antibiotics as above
   - Consider benzodiazepine for alcohol withdrawal
   - monitor HR
   * Hypoxemic respiratory failure: Intubated initially in the setting of
   a code.
   - Continue supportive ventilation with goal to compensate for her
   profound metabolic acidosis from a ventilatory standpoint
   - drop FiO2 to 40% today
   - check ABG
   * Acute renal failure: Initially appears pre-renal in the setting of
   poor PO and FeNa 0.4. The patient may progress to ATN in the setting of
   hypotension.
   - IVF hydration with D5LR x 1 L today
   - Continue to monitor
   * Anemia: The patient
s baseline hematocrit is 32 and was 25 on
   admission. Hematocrit has now dropped to 21, likely in the setting of
   dilution.  Hemolysis labs negative. Guaiac negative on admission. s/p 1
   pRBC yesterday
   - Guaiac all stools
   - Active type and cross
   - Continue to monitor
   * EtoH abuse: Concern for alcohol withdrawal as above.
   - Thiamine 100 mg IV x 3 days, folate, MVI
   - f/u thiamine level
   - Consider benzodiazepine for alcohol withdrawal
   * Hyponatremia: Hypovolemic hyponatremia. Improved with fluids.
   - monitor Na
   * Hypoglycemia: Unclear etiology, resolved. The patient had recently
   been drinking significant amounts of alcohol, which was likely
   responsible.
   - d/c insulin gtt
   - Q6 hour FS
   - HISS
   * Polysubstance abuse: History ofalcohol abuse as above. Urine positive
   for cocaine.
   - Monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-04-17 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2165-4-16**] 12:19 PM
 SPUTUM CULTURE - At [**2165-4-16**] 02:04 PM
 MULTI LUMEN - STOP [**2165-4-16**] 06:33 PM
   > CT scan overnight
   > Finished cooling protocol
   > EEG difficult to interpret in setting of shivering
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-15**] 08:51 AM
   Vancomycin - [**2165-4-16**] 07:42 AM
   Ciprofloxacin - [**2165-4-16**] 08:13 PM
   Metronidazole - [**2165-4-17**] 03:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-17**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 112 (95 - 115) bpm
   BP: 97/52(69) {97/52(69) - 142/79(103)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,300 mL
                                                                  1,289 mL
   PO:
             TF:
   IVF:
                                                                  3,300 mL
                                                                  1,169 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    510 mL
   Urine:
                                                                  1,105 mL
                                                                    310 mL
   NG:
                                                                    450 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 568 (352 - 852) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.43/29/94.[**Numeric Identifier 128**]/18/-3
   Ve: 13.8 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement:
   Not assessed, Tone: increased, decerebrating posture with no cortical
   function
   Labs / Radiology
   7.2 g/dL
   267 K/uL
   182 mg/dL
   1.4 mg/dL
   18 mEq/L
   4.2 mEq/L
   31 mg/dL
   97 mEq/L
   133 mEq/L
   22.4 %
   47.4 K/uL
        [image002.jpg]
                             [**2165-4-16**]  01:12 PM
                             [**2165-4-16**]  01:33 PM
                             [**2165-4-16**]  04:44 PM
                             [**2165-4-16**]  04:57 PM
                             [**2165-4-16**]  08:55 PM
                             [**2165-4-16**]  08:57 PM
                             [**2165-4-17**]  01:37 AM
                             [**2165-4-17**]  01:47 AM
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
   WBC
   47.4
   Hct
   25.5
   22.4
   Plt
   267
   Cr
   1.2
   1.2
   1.2
   1.3
   1.4
   TCO2
   19
   17
   15
   19
   20
   Glucose
   106
   118
   231
   226
   182
   Other labs: PT / PTT / INR:13.7/31.2/1.2, ALT / AST:45/151, Alk Phos /
   T Bili:182/0.4, Amylase / Lipase:/19, Differential-Neuts:92.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:246 mg/dL,
   Lactic Acid:2.6 mmol/L, LDH:318 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.6 mg/dL
   CT scan [**4-16**]
   Slight increase in size of small bilateral pleural effusions. Perhaps
   mildly
   fluid distended small bowel loops, without evidence for obstrction or
   perforation. No focal fluid collections seen. Persistent colonic wall
   thickening of cecum and ascending colon- ?third spacing, though
   difficult to
   exclude colitis. Pericholecystic fluid has nearly resolved, and likely
   represented third spacing/volume overload. Mild ascites and anasarca.
   Aorta
   and main branches, including celiac trunk, SMA, and [**Female First Name (un) **] are patent.
   Portan
   venous system patent without portal venous gas. Small filling defects
   in right
   ext. iliac vein-?foci of thrombus, perhaps chronic.
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source
   with her WBC continuning to increase
   >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions, she has
   brain stem function, but  now decerebrating. Overall poor prognosis.
    - serial exams
   - Appreciate Neuro consult, EEG
 is suggestive of
near
 vegetative
   state-very ominous and portends extremely poor chance of  recovery of
   any significant CNS function.
    > Hypox resp failure: intubated intially in the setting of a code.
   She  conts to improve (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis,
   - Tolerating PS well at this point
   > Anemia: likely dilutional in nature and acute on chronic. Will
   transfuse to keep Hct > 21 received 1 U 6/1with appropriate.
   >Hypotension/Tachycardia: no obvious source at first glance although
   concerns include: abdominal souce (normal LFT, panreatic zymes but
   elevated lactate and distended colon air gas pattern with no obvious
   transition site ) in the setting of her hx of abdominal sources (hx of
   abdominal surgery).  These issues have improved substantially over the
   last 24 hrs. Contiune to worry that the abdomen is a source given the
   thickened cecum although there are limited options for management.
   Seems reasonable to trial covering c. dif.
   - Cont to support with IVF
   - Add PO Vanco to empiric c. dif
   - cont Abx (Vanco, Cirpo, flagyl)
   - cont to trend the lactate
   - f/u with surgery
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. No evidence of
   toxic ingestion (meth and ethylene glycol neg) . It is also possible
   she had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. Today, her AG has improved but it is still about
   15
   - Cont to gently hydrate with LR
   - Follow lactate
   - Thiamine repletion
   - Change fluid resus to LR (the HCO3 is a titrateable acid load)
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above, she
   seems to have stabilized her renal function at this point.
   > Access: try to get radial arterial line (and remove femoral art
   line).
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-04-18 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Surgery does not think there is an acute intra-abdominal process,
   recommend TPN, will follow for now
   Neurology with preliminary read of EEG demonstrating minimal cortical
   activity
   Transfused 1 unit PRBC
   Started empiric PO Vancomycin
   Unable to add D-Lactate, clinical pathology resident to contact us this
   AM
   Renewed Vancomycin IV, however will need to stop if no + cx in 72 hrs
   per ID
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-15**] 08:51 AM
   Vancomycin - [**2165-4-16**] 07:42 AM
   Ciprofloxacin - [**2165-4-17**] 08:00 PM
   Metronidazole - [**2165-4-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-17**] 09:28 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-17**] 06:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-18**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 117 (109 - 118) bpm
   BP: 138/81(103) {97/52(69) - 138/82(103)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,168 mL
                                                                    680 mL
   PO:
             TF:
   IVF:
                                                                  3,553 mL
                                                                    680 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,640 mL
                                                                    500 mL
   Urine:
                                                                  1,240 mL
                                                                    500 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,528 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (311 - 651) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 12.2 L/min
   Physical Examination
   GEN: not responding to voice or painful stimuli
   CHEST: CTAB anteriorly
   CV: RRR, nl S1, S2, no m/r/g
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: sedated and intubated
   Neurologic: decerebrate posturing on exam, equivocal corneal reflexes,
   + bilateral pupillary reflexes.  Toes upgoing bilaterally.
   Labs / Radiology
   189 K/uL
   7.7 g/dL
   164 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   25 mg/dL
   103 mEq/L
   136 mEq/L
   23.4 %
   50.8 K/uL
        [image002.jpg]
                             [**2165-4-16**]  04:57 PM
                             [**2165-4-16**]  08:55 PM
                             [**2165-4-16**]  08:57 PM
                             [**2165-4-17**]  01:37 AM
                             [**2165-4-17**]  01:47 AM
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
   WBC
   47.4
   52.5
   50.8
   Hct
   22.4
   20.9
   24.2
   23.4
   Plt
   [**Telephone/Fax (3) 9224**]
   Cr
   1.2
   1.3
   1.4
   1.5
   1.5
   1.4
   TCO2
   17
   15
   19
   20
   Glucose
   [**Telephone/Fax (3) 9225**]
   Other labs: PT / PTT / INR:14.0/37.3/1.2, ALT / AST:71/195, Alk Phos /
   T Bili:161/0.3, Amylase / Lipase:/19, Differential-Neuts:65.0 %,
   Band:23.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:246 mg/dL,
   Lactic Acid:2.6 mmol/L, LDH:318 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate.
   * Sepsis: Unclear etiology
 wbc continues to rise.
   -on vanc / cipro / flagyl
   -no diarrhea, but will send studies for C diff
   -empirically start PO vanc and IV flagyl
   -repeat Blood cultures, CXR, sputum culture
   -f/u final read CTA abdomen
   -colonic thickening / cecum thickening, f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs
   * Status post arrest: The patient had a 26 minute asystolic arrest in
   the ED. The most likely etiologies are acidosis versus potential toxin
   ingestion.
   -cooling protocol complete
   -EEG x additional 1 day
   -f/u neuro recs
   * Anion gap metabolic acidosis: continues to have lactic acidosis
   although lactate is now decreasing
   -continue to trend
   -bicarb  as needed
   -prelim on ethylene glycol is negative, f/u final, f/u thiamine level
   -D5LR @ 100cc/hr
   * Hypoxemic respiratory failure: on PSV 5/5, FiO2 40% and doing well.
   -continue current settings, neurologic status limiting extubation
   * Acute renal failure: slowly worsening Cr, currently 1.4.
   -continue to trend, lactate improving and no hypotension
   -IVF as above
   * Anemia:  hct drop to 22
   -continue to guaiac stools
   -active type and cross
   -repeat hct in p.m.
   * EtoH abuse: Concern for alcohol withdrawal as above.
   - Thiamine 100 mg IV x 3 days, folate, MVI
   - f/u thiamine level
   * Polysubstance abuse: History ofalcohol abuse as above. Urine positive
   for cocaine.
   - Monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-04-18 07:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > no change to MS.
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-15**] 08:51 AM
   Vancomycin - [**2165-4-16**] 07:42 AM
   Ciprofloxacin - [**2165-4-17**] 08:00 PM
   Metronidazole - [**2165-4-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-17**] 09:28 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-17**] 06:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 117 (109 - 118) bpm
   BP: 138/81(103) {101/60(76) - 138/82(103)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,168 mL
                                                                    687 mL
   PO:
             TF:
   IVF:
                                                                  3,553 mL
                                                                    687 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,640 mL
                                                                    500 mL
   Urine:
                                                                  1,240 mL
                                                                    500 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,528 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (311 - 651) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   189 K/uL
   164 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   25 mg/dL
   103 mEq/L
   136 mEq/L
   23.4 %
   50.8 K/uL
        [image002.jpg]
                             [**2165-4-16**]  04:57 PM
                             [**2165-4-16**]  08:55 PM
                             [**2165-4-16**]  08:57 PM
                             [**2165-4-17**]  01:37 AM
                             [**2165-4-17**]  01:47 AM
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
   WBC
   47.4
   52.5
   50.8
   Hct
   22.4
   20.9
   24.2
   23.4
   Plt
   [**Telephone/Fax (3) 9224**]
   Cr
   1.2
   1.3
   1.4
   1.5
   1.5
   1.4
   TCO2
   17
   15
   19
   20
   Glucose
   [**Telephone/Fax (3) 9225**]
   Other labs: PT / PTT / INR:14.0/37.3/1.2, ALT / AST:71/195, Alk Phos /
   T Bili:161/0.3, Amylase / Lipase:/19, Differential-Neuts:65.0 %,
   Band:23.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:246 mg/dL,
   Lactic Acid:2.6 mmol/L, LDH:318 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.0 mg/dL
   CT scan [**4-16**] final;
   1. Patent mesenteric vessels. Dilated gas filled loops of large bowel,
   which
   may relate to ileus. No definite evidence of mesenteric ischemia or
   bowel
   obstruction.
   2. Mild bowel wall thickening involving the sigmoid colon for which
   colitis
   would be difficult to exclude.
   3. Small non-occlusive filling defect in the right external iliac vein
   with a
   linear orientation, which likely represents a recannulized chronic
   thrombus.
   4. Diffuse body wall anasarca, small bilateral pleural effusion, and
   septal
   thickening compatible with fluid overload.
   5. Right adrenal adenoma.
   6. Ill-defined 9mm hypodensity in the right lobe of the liver, for
   which
   further evaluation with ultrasound is recommended.
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source
   with her WBC continuning to increase
    >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions, she has
   brain stem function, but  now decerebrating. Overall poor prognosis.
    - serial exams
   - Appreciate Neuro consult, EEG
 is suggestive of
near
 vegetative
   state-very ominous and portends extremely poor chance of  recovery of
   any significant CNS function.
    > Hypox resp failure: intubated intially in the setting of a code. She
   is currently stable (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis,
   - Tolerating PS well at this point
   > Anemia: likely dilutional in nature and acute on chronic. Will
   transfuse to keep Hct > 21 received 1 U 6/1with appropriate.
   >Hypotension/Tachycardia: no obvious source at first glance although
   concerns include: abdominal souce (normal LFT, panreatic zymes but
   elevated lactate and distended colon air gas pattern with no obvious
   transition site ) in the setting of her hx of abdominal sources (hx of
   abdominal surgery).  These issues have improved substantially over the
   last 24 hrs. Contiune to worry that the abdomen is a source given the
   thickened cecum although there are limited options for management.
   Seems reasonable to trial covering c. dif.   Her CXR this AM shows cont
   dilation of the bowel.
   - Cont to support with IVF
   - Add PO Vanco to empiric c. dif
   - cont Abx (Vanco, Cirpo, flagyl)
   - cont to trend the lactate
   - appreciate surgery input
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. No evidence of
   toxic ingestion (meth and ethylene glycol neg) . It is also possible
   she had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. This issue is now stable.
   - Cont to gently hydrate with LR
   - Follow lactate
   - Thiamine repletion
   - Change fluid resus to LR (the HCO3 is a titrateable acid load)
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above, she
   seems to have stabilized her renal function at this point.
   > Access: try to get radial arterial line (and remove femoral art
   line).
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will need to speak with family re: overall
   poor prognosis.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-04-19 06:46:00 Physician Resident Progress Note
Chief Complaint: s/p arrest
   24 Hour Events:
 FEVER - 101.5
C - [**2165-4-18**] 03:00 PM
   - Vanco level 13 so gave dose
   - Surgery signed off - no surgical issue
   - Neuro recommend LP and also states that repeat EEG necessary to
   confirm no activity; will need paralysis
   - Standing acetaminophen PR and cultured due to fever, placed cooling
   blanket
   - RUE U/S given asymmetry - prelim from tech - negative
   - Attempted A-line several times but unsuccessful
   - Family meeting today to discuss prognosis, pt still full code
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-18**] 02:02 PM
   Ciprofloxacin - [**2165-4-18**] 08:00 PM
   Metronidazole - [**2165-4-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-18**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-18**] 06:37 PM
   Fentanyl - [**2165-4-18**] 07:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-19**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 35.9
C (96.6
   HR: 92 (91 - 130) bpm
   BP: 127/81(99) {120/78(95) - 178/105(133)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,879 mL
                                                                    674 mL
   PO:
             TF:
   IVF:
                                                                  2,699 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    260 mL
   Urine:
                                                                  1,310 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,569 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 512 (458 - 512) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   7.8 g/dL
   129 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.0 mEq/L
   19 mg/dL
   103 mEq/L
   136 mEq/L
   23.9 %
   31.4 K/uL
        [image002.jpg]
                             [**2165-4-16**]  08:57 PM
                             [**2165-4-17**]  01:37 AM
                             [**2165-4-17**]  01:47 AM
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
   WBC
   47.4
   52.5
   50.8
   40.0
   31.4
   Hct
   22.4
   20.9
   24.2
   23.4
   22.5
   23.9
   Plt
   [**Telephone/Fax (3) 9237**]82
   168
   Cr
   1.2
   1.3
   1.4
   1.5
   1.5
   1.4
   1.1
   1.0
   TCO2
   19
   20
   Glucose
   [**Telephone/Fax (2) 9225**]
   130
   129
   Other labs: PT / PTT / INR:13.3/35.4/1.1, ALT / AST:71/195, Alk Phos /
   T Bili:161/0.3, Amylase / Lipase:/19, Differential-Neuts:90.3 %,
   Band:0.0 %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL,
   Lactic Acid:2.0 mmol/L, LDH:318 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate.
   * Sepsis: Unclear etiology
 wbc continues to rise and bandemia has
   risen.  Low grade fevers
   -contine vanc / cipro / flagyl and PO vancomycin
   -CT scan without clear cause for infection but some ascending colon
   wall thickening
   -continue to f/u blood cultures, sputum cx
   * Status post arrest: off sedation the patient has no cortical function
   and demonstrates brainstem function only with pupillary reflexes and
   corneal reflexes
   -f/u final EEG read
   -f/u neuro recs
   -family meeting regarding grim prognosis
   * Anion gap metabolic acidosis:
   -trending down
   -repeat lactate
   -f/u thiamine level
   * Hypoxemic respiratory failure: on PSV 5/5, FiO2 40% and doing well.
   -continue current settings, neurologic status limiting extubation
   * Acute renal failure: stable around 1.4
   -IVF as above
   * Anemia:  hct relatively stable
   -trend
   * EtoH abuse: Concern for alcohol withdrawal as above.
   - Thiamine 100 mg IV x 3 days, folate, MVI
   - f/u thiamine level
   * Polysubstance abuse: History ofalcohol abuse as above. Urine positive
   for cocaine.
   - Monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-04-19 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
C - [**2165-4-18**] 03:00 PM
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-18**] 02:02 PM
   Ciprofloxacin - [**2165-4-18**] 08:00 PM
   Metronidazole - [**2165-4-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-4-18**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-18**] 06:37 PM
   Fentanyl - [**2165-4-18**] 07:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-19**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 35.9
C (96.6
   HR: 92 (91 - 130) bpm
   BP: 127/81(99) {120/78(95) - 178/105(133)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,879 mL
                                                                    748 mL
   PO:
             TF:
   IVF:
                                                                  2,699 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    260 mL
   Urine:
                                                                  1,310 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,569 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 512 (458 - 512) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Increased
   Labs / Radiology
   7.8 g/dL
   168 K/uL
   129 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.0 mEq/L
   19 mg/dL
   103 mEq/L
   136 mEq/L
   23.9 %
   31.4 K/uL
        [image002.jpg]
                             [**2165-4-16**]  08:57 PM
                             [**2165-4-17**]  01:37 AM
                             [**2165-4-17**]  01:47 AM
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
   WBC
   47.4
   52.5
   50.8
   40.0
   31.4
   Hct
   22.4
   20.9
   24.2
   23.4
   22.5
   23.9
   Plt
   [**Telephone/Fax (3) 9237**]82
   168
   Cr
   1.2
   1.3
   1.4
   1.5
   1.5
   1.4
   1.1
   1.0
   TCO2
   19
   20
   Glucose
   [**Telephone/Fax (3) 9225**]
   130
   129
   Other labs: PT / PTT / INR:13.3/35.4/1.1, ALT / AST:71/195, Alk Phos /
   T Bili:161/0.3, Amylase / Lipase:/19, Differential-Neuts:90.3 %,
   Band:0.0 %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL,
   Lactic Acid:2.0 mmol/L, LDH:318 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.2 mg/dL
   CXR [**4-19**]: ETT high, bilateral consolidation at the bases
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source
   with her WBC elevated.
   >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions, she has
   brain stem function, but  now decerebrating. Overall poor prognosis.
    - serial exams
   - Appreciate Neuro consult, EEG
 is suggestive of
near
 vegetative
   state-very ominous and portends extremely poor chance of  recovery of
   any significant CNS function (although poor quality study). Will plan
   on repeat EEG today (which will likely require paralysis)
   - defer LP for now.
    > Hypox resp failure: intubated intially in the setting of a code. She
   is currently stable (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis,
   - Tolerating PS well at this point, repeat ABG
   - advance ETT tube
   - will need to change to vol control vent when paralyzed
   >Hypotension/Tachycardia: no obvious source at first glance although
   concerns include: abdominal souce (normal LFT, panreatic zymes but
   elevated lactate and distended colon air gas pattern with no obvious
   transition site ) in the setting of her hx of abdominal sources (hx of
   abdominal surgery).  These issues have improved substantially over the
   last 24 hrs. Contiune to worry that the abdomen is a source given the
   thickened cecum although there are limited options for management.
   Seems reasonable to trial covering c. dif.   Her CXR this AM shows cont
   dilation of the bowel.
   - Cont to support with IVF
   -  PO Vanco empiric for  c. dif
   - cont Abx (Vanco, Cipro, flagyl)
   - cont to trend the lactate
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. No evidence of
   toxic ingestion (meth and ethylene glycol neg) . It is also possible
   she had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. This issue is now stable.
   - Cont to gently hydrate with LR
   - Follow lactate
   - Thiamine repletion
   - Change fluid resus to LR (the HCO3 is a titrateable acid load)
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above, she
   seems to have stabilized her renal function at this point.
   > Access: try to get radial arterial line (and remove femoral art
   line), unsuccessful on [**4-18**]
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-04-20 04:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -EEG performed while patient paralyzed
   -sister has made the patient DNR
   -ET tube advanced, repeat X ray improved
   -temporarily on AC ventilation for EEG, switched back to PSV 5/5
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-19**] 08:00 PM
   Metronidazole - [**2165-4-20**] 02:00 AM
   Vancomycin - [**2165-4-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2165-4-19**] 08:45 AM
   Pantoprazole (Protonix) - [**2165-4-19**] 10:54 AM
   Labetalol - [**2165-4-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2165-4-20**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-20**] 04:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 75 (73 - 133) bpm
   BP: 137/69(94) {102/63(77) - 191/116(146)} mmHg
   RR: 17 (14 - 86) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,420 mL
                                                                    598 mL
   PO:
             TF:
   IVF:
                                                                  3,300 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                     84 mL
   Urine:
                                                                    875 mL
                                                                     84 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,295 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 450 (450 - 720) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 12 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.47/31/175/23/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 438
   Physical Examination
    Gen: NAD, bilateral corneal and papillary reflexes
   HEENT: OP clear, MMM
   CARD: RRR, no m/r/g
   PULM: CTAB
   ABD: soft, NT, moderate distension  no masses or organomegaly
   EXT: anasarca
   NEURO: bilateral papillary and corneal reflexes, bilateral babinski, no
   response to stimuli
   Labs / Radiology
   152 K/uL
   7.8 g/dL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.0 %
   19.0 K/uL
        [image002.jpg]
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
                             [**2165-4-19**]  02:33 PM
                             [**2165-4-19**]  04:53 PM
                             [**2165-4-20**]  02:57 AM
   WBC
   47.4
   52.5
   50.8
   40.0
   31.4
   19.0
   Hct
   22.4
   20.9
   24.2
   23.4
   22.5
   23.9
   24.0
   Plt
   [**Telephone/Fax (3) 9237**]82
   168
   152
   Cr
   1.4
   1.5
   1.5
   1.4
   1.1
   1.0
   0.7
   TCO2
   20
   22
   23
   Glucose
   182
   202
   166
   164
   130
   129
   102
   Other labs: PT / PTT / INR:13.5/41.3/1.2, ALT / AST:71/64, Alk Phos / T
   Bili:134/0.2, Amylase / Lipase:/19, Differential-Neuts:90.3 %, Band:0.0
   %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.5 g/dL, LDH:544 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate.
   * Sepsis: Unclear etiology
 wbc improving, bandemia resolved.
   --Fevers suppressed on standing tylenol
   -continue vanc / cipro / flagyl; will d/c PO vanco given low suspicion
   for C. diff infection at this point
   -continue to f/u cultures but no source for infection yet
   * Status post arrest / neurologic status: thus far no evidence of
   cortical function off of sedation.
   -f/u final EEG read while paralyzed; need to speak to neuro regarding
   interpretation of EEG and implications for patient (? Persistent
   vegetative state)
   -once final EEG read will discuss w/ family possibility of CMO
   * Anion gap metabolic acidosis:
   -resolved, lactate normal
   -f/u thiamine level
   * Hypoxemic respiratory failure: on PSV 5/5, FiO2 40% and doing well.
   * Acute renal failure:
   -improved, continue to follow creatinine
   * Anemia:  hct relatively stable
   * EtoH abuse: continue to monitor for signs of ETOH withdrawal, treat
   hypertension and tachycardia with labetalol IV
   - f/u thiamine level
   * Hypertension / tachycardia: intermittent.  Treating with labetalol IV
   q6hrs with modest holding parameters of SBP < 140 or HR < 70.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM (will keep for now)
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-04-20 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-4-19**] 08:00 PM
   Metronidazole - [**2165-4-20**] 02:00 AM
   Vancomycin - [**2165-4-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2165-4-19**] 08:45 AM
   Pantoprazole (Protonix) - [**2165-4-19**] 10:54 AM
   Labetalol - [**2165-4-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2165-4-20**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.6
C (97.9
   HR: 75 (73 - 133) bpm
   BP: 114/61(80) {102/61(77) - 191/116(146)} mmHg
   RR: 15 (14 - 86) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,420 mL
                                                                    992 mL
   PO:
             TF:
   IVF:
                                                                  3,300 mL
                                                                    872 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    173 mL
   Urine:
                                                                    875 mL
                                                                    173 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,295 mL
                                                                    819 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 503 (450 - 720) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.47/31/175/23/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 438
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Increased
   Labs / Radiology
   7.8 g/dL
   152 K/uL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   24.0 %
   19.0 K/uL
        [image002.jpg]
                             [**2165-4-17**]  05:56 AM
                             [**2165-4-17**]  06:10 AM
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
                             [**2165-4-19**]  02:33 PM
                             [**2165-4-19**]  04:53 PM
                             [**2165-4-20**]  02:57 AM
   WBC
   47.4
   52.5
   50.8
   40.0
   31.4
   19.0
   Hct
   22.4
   20.9
   24.2
   23.4
   22.5
   23.9
   24.0
   Plt
   [**Telephone/Fax (3) 9237**]82
   168
   152
   Cr
   1.4
   1.5
   1.5
   1.4
   1.1
   1.0
   0.7
   TCO2
   20
   22
   23
   Glucose
   182
   202
   166
   164
   130
   129
   102
   Other labs: PT / PTT / INR:13.5/41.3/1.2, ALT / AST:71/64, Alk Phos / T
   Bili:134/0.2, Amylase / Lipase:/19, Differential-Neuts:90.3 %, Band:0.0
   %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.5 g/dL, LDH:544 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source
   with her WBC elevated.
   >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions, she has
   brain stem function, but  now decerebrating. Overall poor prognosis.
   - F/u EEG read from [**4-19**]
   - serial exams
   - Appreciate Neuro consult, EEG
 is suggestive of
near
 vegetative
   state-very ominous and portends extremely poor chance of  recovery of
   any significant CNS function (although poor quality study). Will plan
   on repeat EEG today (which will likely require paralysis)
   - defer LP for now.
     > Hypox resp failure: intubated intially in the setting of a code.
   She is currently stable (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis,
   - Tolerating PS well at this point, repeat ABG
   - will need to change to vol control vent when paralyzed
   >Hypotension/Tachycardia: no obvious source at first glance although
   concerns include: abdominal souce (normal LFT, panreatic zymes but
   elevated lactate and distended colon air gas pattern with no obvious
   transition site ) in the setting of her hx of abdominal sources (hx of
   abdominal surgery).  These issues have improved substantially over the
   last 24 hrs. Contiune to worry that the abdomen is a source given the
   thickened cecum although there are limited options for management.
   Seems reasonable to trial covering c. dif.   Her CXR this AM shows cont
   dilation of the bowel.
   - Cont to support with IVF
   -  PO Vanco empiric for  c. dif
   - cont Abx (Vanco, Cipro, flagyl)
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. No evidence of
   toxic ingestion (meth and ethylene glycol neg) . It is also possible
   she had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. This issue is now stable.
   - Cont to gently hydrate with LR
   - Thiamine repletion
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above, she
   seems to have stabilized her renal function at this point.
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   22 Gauge - [**2165-4-16**] 05:57 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-04-21 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 207.7
C - [**2165-4-20**] 12:00 PM
   -Per neuro: EEG carries grave prognosis, extremely slim chance of
   meaninful recovery
   -Family aware of grim prognosis
   -Increased labetalol to 20mg Q6H given hypertensive to 180's systolic,
   got extra dose of hydralazine
   -Around 5am, became more bradycardic (to 50's), oliguric (despite 3L
   boluses), less neurologic response
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-20**] 09:39 AM
   Metronidazole - [**2165-4-20**] 05:58 PM
   Ciprofloxacin - [**2165-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-20**] 09:39 AM
   Labetalol - [**2165-4-20**] 05:45 PM
   Hydralazine - [**2165-4-20**] 06:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-21**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 97.6
C (207.7
   Tcurrent: 36.4
C (97.5
   HR: 61 (61 - 116) bpm
   BP: 123/67(87) {110/59(64) - 178/113(137)} mmHg
   RR: 17 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,280 mL
                                                                  3,530 mL
   PO:
             TF:
   IVF:
                                                                  3,010 mL
                                                                  3,470 mL
   Blood products:
   Total out:
                                                                    688 mL
                                                                    180 mL
   Urine:
                                                                    688 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,592 mL
                                                                  3,350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (419 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/35/90.[**Numeric Identifier 128**]//0
   Ve: 8.8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: NAD, bilateral corneal and papillary reflexes
   HEENT: OP clear, MMM
   CARD: RRR, no m/r/g
   PULM: CTAB
   ABD: soft, NT, moderate distension  no masses or organomegaly
   EXT: anasarca
   NEURO: bilateral papillary and corneal reflexes, bilateral babinski, no
   response to stimuli
   Labs / Radiology
   224 K/uL
   8.2 g/dL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   104 mEq/L
   134 mEq/L
   25.4 %
   23.0 K/uL
        [image002.jpg]
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
                             [**2165-4-19**]  02:33 PM
                             [**2165-4-19**]  04:53 PM
                             [**2165-4-20**]  02:57 AM
                             [**2165-4-21**]  05:42 AM
                             [**2165-4-21**]  06:07 AM
   WBC
   52.5
   50.8
   40.0
   31.4
   19.0
   23.0
   Hct
   20.9
   24.2
   23.4
   22.5
   23.9
   24.0
   25.4
   Plt
   195
   189
   182
   168
   152
   224
   Cr
   1.5
   1.5
   1.4
   1.1
   1.0
   0.7
   TCO2
   22
   23
   25
   Glucose
   [**Telephone/Fax (3) 9256**]30
   129
   102
   Other labs: PT / PTT / INR:13.5/41.3/1.2, ALT / AST:71/64, Alk Phos / T
   Bili:134/0.2, Amylase / Lipase:/19, Differential-Neuts:90.3 %, Band:0.0
   %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.5 g/dL, LDH:544 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 HYPOXEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CARDIAC ARREST
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate.
   * Sepsis: Unclear etiology
 wbc improving, bandemia resolved. Fevers
   suppressed on standing tylenol
   -continue vanc / cipro / flagyl; PO vanco d/c given low suspicion for
   C. diff infection at this point
   -continue to f/u cultures but no source for infection yet
   * Status post arrest / neurologic status: thus far no evidence of
   cortical function off of sedation. EEG demonstrative of grim prognosis
   for patient. Family aware.
   -Ongoing discussions w/ family possibility of CMO
   * Oliguria: new as of [**4-21**]. [**Month (only) 60**] represent poor forward flow in setting
   of bradycardia +/- myocardial dysfunction after arrest. Did not respond
   to 3L IVF boluses. Will continue to monitor UOP and creatinine for
   now.
   * Acute renal failure:
   -improved, continue to follow creatinine
   * Anion gap metabolic acidosis:
   -resolved, lactate normal
   -f/u thiamine level
   * Hypoxemic respiratory failure: on PSV 5/5, FiO2 40% and doing well.
   * Anemia:  hct relatively stable
   * EtoH abuse: continue to monitor for signs of ETOH withdrawal, treat
   hypertension and tachycardia with labetalol IV (discontinued for now
   given bradycardia and normotension)
   - f/u thiamine level
   * Hypertension / tachycardia: intermittent, currently not an issue.
   Discontinue labetalol for now.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Pantoprazole [**Hospital1 **]
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-04-21 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - [**2165-4-20**] 12:00 PM
   > increasing hemodynamic instability (brady, tachy, hypo,
   hypertensive): prominent  HTN and bradycardia
   > worsening neuron exam (no response to pain: only mild decerebrate)
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-20**] 09:39 AM
   Metronidazole - [**2165-4-20**] 05:58 PM
   Ciprofloxacin - [**2165-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-20**] 09:39 AM
   Labetalol - [**2165-4-20**] 05:45 PM
   Hydralazine - [**2165-4-20**] 06:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-21**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 97.6
C (207.7
   Tcurrent: 36.4
C (97.5
   HR: 61 (61 - 116) bpm
   BP: 123/67(87) {110/59(64) - 178/113(137)} mmHg
   RR: 17 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,280 mL
                                                                  3,543 mL
   PO:
             TF:
   IVF:
                                                                  3,010 mL
                                                                  3,483 mL
   Blood products:
   Total out:
                                                                    688 mL
                                                                    180 mL
   Urine:
                                                                    688 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,592 mL
                                                                  3,363 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (419 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/35/90.[**Numeric Identifier 128**]/23/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: increased. Pupils sluggish
   Labs / Radiology
   8.2 g/dL
   224 K/uL
   120 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   104 mEq/L
   134 mEq/L
   25.4 %
   23.0 K/uL
        [image002.jpg]
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
                             [**2165-4-19**]  02:33 PM
                             [**2165-4-19**]  04:53 PM
                             [**2165-4-20**]  02:57 AM
                             [**2165-4-21**]  05:42 AM
                             [**2165-4-21**]  06:07 AM
   WBC
   52.5
   50.8
   40.0
   31.4
   19.0
   23.0
   Hct
   20.9
   24.2
   23.4
   22.5
   23.9
   24.0
   25.4
   Plt
   195
   189
   182
   168
   152
   224
   Cr
   1.5
   1.5
   1.4
   1.1
   1.0
   0.7
   0.7
   TCO2
   22
   23
   25
   Glucose
   [**Telephone/Fax (3) 9256**]30
   129
   102
   120
   Other labs: PT / PTT / INR:12.3/29.0/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:131/0.3, Amylase / Lipase:/19, Differential-Neuts:90.3 %, Band:0.0
   %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.4 g/dL, LDH:621 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source
   with her WBC elevated.
   >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions, she has
   brain stem function, but  now decerebrating. Overall poor prognosis,
   repeat EEG extremely abnormal with low voltage and worsening exam and
   autonomic dysfunction portends a grim prognosis. Concern now she is
   close to herniating, ? utility of repeat CT scan.
   - serial exams
   - Appreciate Neuro
   - defer LP for now.
   > Hypox resp failure: intubated intially in the setting of a code. She
   is currently stable (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis,
   - Tolerating PS well at this point,
    >Leukocytosis: unclear source, thought to be abdomen with all clx
   negative thus far, currently on Vanco, (PO, IV), Cipro, flagyl, with
   all clx (although do not have c. dif). Given overall poor prognosis not
   unreasonable to hold, but would favor stopping PO vanco today.
   > HTN/tachycardia: unclear if cerebral dysregulation vs increasing
   cerebral edema and autonomic dysfunction
   Will d/w neurology, for now trial labetalol and hydralazine.
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. No evidence of
   toxic ingestion (meth and ethylene glycol neg) . It is also possible
   she had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. This issue is now stable.
   - Cont to gently hydrate with LR
   - Thiamine repletion
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above, she
   seems to have stabilized her renal function at this point. Worsening
   UOP
   - renal U/S to rule out obstruction
   - FENA 0.1%
    -Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO, D5
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-4-15**] 10:48 AM
   Multi Lumen - [**2165-4-16**] 12:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held  Comments: With extensive
   discussions with family and given 6 days of persistently poor mental
   status and significant cerebral edema on initial CT current plans are
   to move to CMO status in the setting of clinical worsening this morning
   with evolution of further brainstem compromise as evidenced by
   intermittent apnea and alterations in autonomic function with
   hypertension and bradycardia.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-04-22 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had episodes of bradycardia/hypertension, concerned for imminent
   herniation
   - urine lytes c/w prerenal (0.1 FeNa)
   - renal U/S prelim negative for hydronephrosis
   - d/c RTC Tylenol given euthermia
   - Family discussion decided extubate and make CMO
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-21**] 08:42 AM
   Ciprofloxacin - [**2165-4-21**] 08:42 AM
   Metronidazole - [**2165-4-21**] 10:35 AM
   Infusions:
   Morphine Sulfate - 12 mg/hour
   Other ICU medications:
   Labetalol - [**2165-4-21**] 08:55 AM
   Pantoprazole (Protonix) - [**2165-4-21**] 10:36 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-21**] 10:36 AM
   Morphine Sulfate - [**2165-4-22**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-22**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 107 (61 - 120) bpm
   BP: 136/87(99) {100/51(62) - 173/100(118)} mmHg
   RR: 9 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,438 mL
                                                                     38 mL
   PO:
             TF:
   IVF:
                                                                  4,378 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                      0 mL
   Urine:
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,013 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 541 (541 - 541) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 11.6 L/min
   Physical Examination
   Gen: NAD, bilateral corneal
   HEENT: OP clear, MMM, PERRL (L side more sluggish)
   CARD: RRR, no m/r/g
   PULM: CTAB
   ABD: soft, NT, moderate distension  no masses or organomegaly
   EXT: anasarca
   NEURO: bilateral pupillary and corneal reflexes, no response to
   stimuli, upgoing toes bilaterally, decorticate posturing
   Labs / Radiology
   224 K/uL
   8.2 g/dL
   120 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   104 mEq/L
   134 mEq/L
   25.4 %
   23.0 K/uL
        [image002.jpg]
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
                             [**2165-4-19**]  02:33 PM
                             [**2165-4-19**]  04:53 PM
                             [**2165-4-20**]  02:57 AM
                             [**2165-4-21**]  05:42 AM
                             [**2165-4-21**]  06:07 AM
   WBC
   52.5
   50.8
   40.0
   31.4
   19.0
   23.0
   Hct
   20.9
   24.2
   23.4
   22.5
   23.9
   24.0
   25.4
   Plt
   195
   189
   182
   168
   152
   224
   Cr
   1.5
   1.5
   1.4
   1.1
   1.0
   0.7
   0.7
   TCO2
   22
   23
   25
   Glucose
   [**Telephone/Fax (3) 9256**]30
   129
   102
   120
   Other labs: PT / PTT / INR:12.3/29.0/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:131/0.3, Amylase / Lipase:/19, Differential-Neuts:90.3 %, Band:0.0
   %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.4 g/dL, LDH:621 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   54 year-old female with history of alcohol abuse, status post
   splenectomy, status post multiple abdominal surgeries initially
   presenting with altered mental status and dyspnea, with subsequent
   asystolic arrest for 26 minutes and multiple laboratory abnormalities,
   including significant bandemia, metabolic acidosis, and elevated
   lactate, now with poor prognosis given repeat EEG.
   * Sepsis: Unclear etiology
 WBC slightly elevated today. bandemia
   resolved. Afebrile on RTC Acetaminophen.
   - continue vanc / cipro / flagyl
   - continue to f/u cultures but no source for infection yet
   * Status post arrest / neurologic status: thus far no evidence of
   cortical function off of sedation. EEG demonstrative of grim prognosis
   for patient. Family aware.  VS hypertensive / bradycardic
 concern for
   impending herniation
   - ongoing discussions w/ family possibility of CMO
   - f/u with neuro regarding ? head CT for herniation
   * Oliguria: new as of [**4-21**]. [**Month (only) 60**] represent poor forward flow in setting
   of bradycardia +/- myocardial dysfunction after arrest. Did not respond
   to 3L IVF boluses. Will continue to monitor UOP and creatinine for
   now.
   - urine lytes pre renal
   - renal U/S pending
   * Acute renal failure:
   -improved, continue to follow creatinine
   * Anion gap metabolic acidosis:
   -resolved, lactate normal
   -f/u thiamine level
   * Hypoxemic respiratory failure: on PSV 5/5, FiO2 40% and doing well.
   * Anemia:  hct relatively stable
   * EtoH abuse: continue to monitor for signs of ETOH withdrawal, treat
   hypertension and tachycardia with labetalol IV (discontinued for now
   given bradycardia and normotension)
   - f/u thiamine level
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-16**] 12:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-04-22 07:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2165-4-21**] 03:30 PM
 ARTERIAL LINE - STOP [**2165-4-21**] 04:10 PM
   Allergies:
   Iodine
   Unknown;
   Shellfish
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-21**] 08:42 AM
   Ciprofloxacin - [**2165-4-21**] 08:42 AM
   Metronidazole - [**2165-4-21**] 10:35 AM
   Infusions:
   Morphine Sulfate - 12 mg/hour
   Other ICU medications:
   Labetalol - [**2165-4-21**] 08:55 AM
   Pantoprazole (Protonix) - [**2165-4-21**] 10:36 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-21**] 10:36 AM
   Morphine Sulfate - [**2165-4-22**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 107 (69 - 120) bpm
   BP: 136/87(99) {111/60(71) - 173/100(118)} mmHg
   RR: 9 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,438 mL
                                                                     53 mL
   PO:
             TF:
   IVF:
                                                                  4,378 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                      0 mL
   Urine:
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,013 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 541 (541 - 541) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 11.6 L/min
   Physical Examination
   Eyes / Conjunctiva: Pupils dilated
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Increased
   Labs / Radiology
   8.2 g/dL
   224 K/uL
   120 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   104 mEq/L
   134 mEq/L
   25.4 %
   23.0 K/uL
        [image002.jpg]
                             [**2165-4-17**]  12:27 PM
                             [**2165-4-17**]  08:22 PM
                             [**2165-4-18**]  03:49 AM
                             [**2165-4-18**]  07:30 PM
                             [**2165-4-19**]  03:06 AM
                             [**2165-4-19**]  02:33 PM
                             [**2165-4-19**]  04:53 PM
                             [**2165-4-20**]  02:57 AM
                             [**2165-4-21**]  05:42 AM
                             [**2165-4-21**]  06:07 AM
   WBC
   52.5
   50.8
   40.0
   31.4
   19.0
   23.0
   Hct
   20.9
   24.2
   23.4
   22.5
   23.9
   24.0
   25.4
   Plt
   195
   189
   182
   168
   152
   224
   Cr
   1.5
   1.5
   1.4
   1.1
   1.0
   0.7
   0.7
   TCO2
   22
   23
   25
   Glucose
   [**Telephone/Fax (3) 9256**]30
   129
   102
   120
   Other labs: PT / PTT / INR:12.3/29.0/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:131/0.3, Amylase / Lipase:/19, Differential-Neuts:90.3 %, Band:0.0
   %, Lymph:6.6 %, Mono:2.0 %, Eos:0.2 %, Fibrinogen:246 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.4 g/dL, LDH:621 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   54 yo female with hx of multiple abdominal surgeries who presented with
   hypoglycemia and a complaint of abdominal pain / shortness of breath
   who had an aystolic arrest in the ED and was aystolic for approximately
   40 minutes. Pre-arrest her most notable findings were an elevated
   lactate, a profound high AG acidosis and a complaint of abdominal
   pain.  She has diffuse cerebral edema but limited improvement in her
   exam this AM. There is not a clear source as to her decompensation at
   this point although the abdomen appears to be the most likely source
   with her WBC elevated.
   >Altered Mental status: signifincant concern for hypoxic brain injury
   in the setting of asystolic arrest plus recent ingestions, she has
   brain stem function, but  now decerebrating. Overall poor prognosis,
   repeat EEG extremely abnormal with low voltage and worsening exam and
   autonomic dysfunction portends a grim prognosis. Concern now she is
   close to herniating, ? utility of repeat CT scan.
   - serial exams
   - Appreciate Neuro
   - defer LP for now.
   > Hypox resp failure: intubated intially in the setting of a code. She
   is currently stable (her chest CT is largely unremarkable)
   - Cont supportive ventilation with goal to compensate from a
   ventilatory standpoint for her profound metabolic acidosis,
   - Tolerating PS well at this point,
    >Leukocytosis: unclear source, thought to be abdomen with all clx
   negative thus far, currently on Vanco, (PO, IV), Cipro, flagyl, with
   all clx (although do not have c. dif). Given overall poor prognosis not
   unreasonable to hold, but would favor stopping PO vanco today.
   > HTN/tachycardia: unclear if cerebral dysregulation vs increasing
   cerebral edema and autonomic dysfunction
   Will d/w neurology, for now trial labetalol and hydralazine.
   > Metabolic acidosis:  high AG a mixture of lactate, ketones and
   unmeasured acid load in the setting of renal failure. No evidence of
   toxic ingestion (meth and ethylene glycol neg) . It is also possible
   she had a low thiamine and had a low blood sugar which she received
   dextrose in ED from may have precipitated an anaerobic state from
   thiamine deificiency. This issue is now stable.
   - Cont to gently hydrate with LR
   - Thiamine repletion
   > Renal failure: acute renal failure which is likely to be worse post
   her 40 min asystolic event. Will support hemodynamically as above, she
   seems to have stabilized her renal function at this point. Worsening
   UOP
   - renal U/S to rule out obstruction
   - FENA 0.1%
    -Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-16**] 12:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 45 minutes